US09169246B2
Step 24.2. 7-(2-hydroxypyrid-3-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
To a solution of 7-(2-methoxypyrid-3-1)-1-(tetrahydro-2H-pyran-2-1)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-(2-methoxypyrid-3-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (90 mg, 0.20 mmol) in a DCM/MeOH mixture (50/50) is added a 4M solution of hydrogen chloride in anhydrous dioxane (2 mL, 2.45 mmol). The solution is stirred at room temperature for 10 days and then poured into diisopropyl ether. The precipitate formed is filtered off and washed with EtOH. 52 mg of a white solid are obtained (yield: 65%).

reactant | 7-(2-methoxypyrid-3-yl)-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.20 mmol, 90 mg | COC1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C23H23F3N4O3
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 2.45 mmol, 2 mL | O1CCOCC1 | C4H8O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | DCM MeOH | C(Cl)Cl.CO
product | 7-(2-hydroxypyrid-3-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 52 mg, yield: 65% | OC1=NC=CC=C1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3 | C17H11F3N4O2
